US04692447
dl-7-trifluoroacetylamino-4,4a-dihydro-5H-indeno-[1,2-c]-pyridazin-3-one, m.p. 234° C., which is hydrolized with 1N H2SO4 to give dl-7-amino-4,4a-dihydro-5H-indeno[1,2-c]-pyridazin-3-one.

reactant | 7-trifluoroacetylamino-4,4a-dihydro-5H-indeno-[1,2-c]-pyridazin-3-one | FC(C(=O)NC=1C=C2CC3C(=NNC(C3)=O)C2=CC1)(F)F | C13H10F3N3O2
reactant | H2SO4 | 1N | OS(=O)(=O)O | H2O4S
product | 7-amino-4,4a-dihydro-5H-indeno[1,2-c]-pyridazin-3-one | NC=1C=C2CC3C(=NNC(C3)=O)C2=CC1 | C11H11N3O
